US07199139B2
(S)-4-Benzyl-3-[(4-fluorophenoxy)acetyl]oxazolidin-2-one
The target compound (2.76 g) was obtained as colorless crystals by carrying out the reaction and the post-treatment according to Reference example 20(a) using 4-fluorophenoxyacetic acid (1.70 g), oxalyl chloride (2.18 ml), (S)-4-benzyl-2-oxazolidinone (1.77 g) and a solution of n-butyl lithium in hexane (1.61N, 7.14 ml).

reactant | 4-fluorophenoxyacetic acid | 1.70 g | FC1=CC=C(OCC(=O)O)C=C1 | C8H7FO3
reactant | oxalyl chloride | 2.18 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-4-benzyl-2-oxazolidinone | 1.77 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | C(CCC)[Li]
solvent | hexane | 1.61N, 7.14 ml | CCCCCC | C6H14
product | (S)-4-Benzyl-3-[(4-fluorophenoxy)acetyl]oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC1=CC=C(C=C1)F)=O | C18H16FNO4
